US09120822B2
Sodium hydroxide (5.86 g, 140.6 mmol, 2.5 eq) is added protionwise at room temperature to a stirred solution of 4-chloro-6-methoxy-[1,5]naphthyridine-3-carboxylic acid ethyl ester (15.0 g, 56.25 mmol, 1.0 eq) in tetrahydrofuran (150 mL) and water (80 mL). After 15 hours stirring at room temperature, tetrahydrofuran is removed, the aqueous layer is cooled down to 0° C. and the pH is adjusted to 3 by the addition of a 2N hydrochloric acid aqueous solution. The resulting precipitate is collected by filtration, washed with water and dried under high vacuum to afford 4-chloro-6-methoxy-[1,5]naphthyridine-3-carboxylic acid as a light red solid (12.9 g, 96% yield).

reactant | Sodium hydroxide | 140.6 mmol, 5.86 g, 2.5 eq | [OH-].[Na+]
reactant | 4-chloro-6-methoxy-[1,5]naphthyridine-3-carboxylic acid ethyl ester | 56.25 mmol, 15.0 g, 1.0 eq | C(C)OC(=O)C=1C=NC2=CC=C(N=C2C1Cl)OC | C12H11ClN2O3
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | water | 80 mL | O | H2O
product | 4-chloro-6-methoxy-[1,5]naphthyridine-3-carboxylic acid | 12.9 g, 96% yield | ClC1=C(C=NC2=CC=C(N=C12)OC)C(=O)O | C10H7ClN2O3
